US06500866B1
3-(1-Adamantyl)-2-phenylpropanenitrile
A solution of 3-(1-adamantyl)-2-phenylpropenenitrile (600 mg, 2.28 mmol) in EtOAc (30 mL) was treated with 10% Pd/C (70 mg), hydrogenated at 50 psi for 16 h, filtered through SiO2 and concentrated in vacuo. The residue was purified by chromatography [SiO2, EtOAc-heptane (1:1)] and the resulting solid recrystallised (heptane) to give the product (552 mg, 91%) as a white crystalline solid: mp 83-84° C; IR νmax (Nujol)/cm−1 2912, 2852, 2239, 1497, 1453, 1377, 1355, 1346, 1105, 749, 713 and 696; NMR δH (400 MHz, CDCl3) 1.50 (1H, dd, J 14.3, 3.2 Hz), 1.63 (9H, m), 1.72 (3H, m), 1.94 (1H, dd, J 14.3,10.4 Hz), 2.01 (3H, m), 3.79 (1H, dd, J 10.4, 3.2 Hz) and 7.35 (5H, m); Anal. Calcd for C19H23N: C, 85.99; H, 8.73; N, 5.28. Found: C, 85.96; H, 8.90; N, 5.27.

reactant | 3-(1-adamantyl)-2-phenylpropenenitrile | 2.28 mmol, 600 mg | C12(CC3CC(CC(C1)C3)C2)C=C(C#N)C2=CC=CC=C2 | C19H21N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 3-(1-Adamantyl)-2-phenylpropanenitrile | 552 mg, 91% | C12(CC3CC(CC(C1)C3)C2)CC(C#N)C2=CC=CC=C2 | C19H23N
